.title KiCad schematic
.ac dec 200 10 10k
V1 /u GND DC 1 AC 1  
G2 /u GND /p GND 0.00785398
G1 GND /p /u GND 0.00785398
L1 /p /pbox 6.37648
R2 Net-_C1-Pad1_ /pbox 22792.4
R1 /p Net-_C1-Pad1_ 51683.3
C1 Net-_C1-Pad1_ /pbox 5.31738n
L2 /pbox /pv 18.0291
C2 /pbox GND 164.713n
R4 /pv Net-_C3-Pad1_ 51683.3
C3 Net-_C3-Pad1_ GND 5.31738n
L5 /pv GND 6.37648
R5 Net-_C3-Pad1_ GND 22792.4
.end
