.title KiCad schematic
.ac dec 200 20 20k
R3 /pm GND 1T
R2 Net-_C1-Pad1_ /pm 5.7k
C2 /pm GND 71.6n
C1 Net-_C1-Pad1_ /pm 42.5n
R1 /p Net-_C1-Pad1_ 12.9k
L1 /p /pm 3.19
G1 GND /p /u GND 0.0314159
V1 /u GND DC 1 AC 1  
G2 /u GND /p GND 0.0314159
.end
