.title KiCad schematic
.ac dec 200 10 100k
G1 /pf /pb /u GND 0.000506707
R1 /pb /ps 20Meg
R4 /u GND 1
L2 /u GND 0.00021
C2 /u GND 0.0002
G2 GND /u /pf /pb 0.000506707
G3 /u GND /out GND 0.000425532
R5 Net-_E1-N+_ /out 200
E1 Net-_E1-N+_ GND /u GND 20
R6 /out GND 47000
C1 /ps GND 716f
R8 Net-_L4-Pad2_ GND 15Meg
C4 /pc GND 35.1p
R7 /ps Net-_L3-Pad1_ 30Meg
L3 Net-_L3-Pad1_ /pc 300
V1 Net-_L1-Pad1_ GND DC 1 AC 1  
L1 Net-_L1-Pad1_ /pf 25.1
L4 /pc Net-_L4-Pad2_ 10k
.end
